US05324747
Using this procedure the reaction of 5-nitroisophthalic acid with 1-bromodecane gave 5-nitro-1,3-benzenedicarboxylic acid didecyl ester (mp 48°-50°, Anal. Calcd for C28H45NO6 : C, 68.40; H, 9.23; N, 2.85. Found: C, 67.68; H, 9.13; N, 2.86.

reactant | 5-nitroisophthalic acid | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H5NO6
reactant | 1-bromodecane | BrCCCCCCCCCC | C10H21Br
product | 5-nitro-1,3-benzenedicarboxylic acid didecyl ester | C(CCCCCCCCC)OC(=O)C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)OCCCCCCCCCC | C28H45NO6
